US06448397B1
N,N-Diethyl-N-{4-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]butyl}amine
To a mixture of 4-chlorobutyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl ether (0.36 g, 0.9 mmol) in dry DMF (10 mL) is added potassium carbonate (0.63 g, 4.6 mmol), diethylamine (0.48 mL, 4.6 mmol), and sodium iodide (0.135 g, 0.9 mmol). The mixture is heated at 50° C. for 20 h. The mixture is then cooled to room temperature and partitioned between water and ether. The ether layer is washed twice with water (50 mL) then dried over anhydrous sodium sulfate and concentrated. Column chromatography (60 mL silica) using 5% methanol in methylene chloride as eluent gave 0.127 g (33%) of the title compound.

reactant | 4-chlorobutyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl ether | 0.9 mmol, 0.36 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCCCCl | C24H22ClNO2
reactant | potassium carbonate | 4.6 mmol, 0.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylamine | 4.6 mmol, 0.48 mL | C(C)NCC | C4H11N
reactant | sodium iodide | 0.9 mmol, 0.135 g | [I-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N,N-Diethyl-N-{4-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]butyl}amine | 0.127 g, 33% | C(C)N(CCCCOC1=CC=CC=2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3)CC | C28H32N2O2
